US07319152B2
3,3-dimethyl-5-[4-(trifluoromethyl)phenyl]indan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 4-(trifluoromethyl)phenyl boronic acid according to the procedure described in example 21. MS m/z 305; HRMS: calcd for C18H15F3O+H+, 305.11478; found (ESI, [M+H]+), 305.1145.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 4-(trifluoromethyl)phenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 3,3-dimethyl-5-[4-(trifluoromethyl)phenyl]indan-1-one | CC1(CC(C2=CC=C(C=C12)C1=CC=C(C=C1)C(F)(F)F)=O)C | C18H15F3O
